* source TL431
X_U1         N00099 N00096 0 N00070 0 A4N25 PARAMS: rel_CTR=1
R_R2         N00102 N00099  1.5k  
R_R1         N00060 N00102  1.2k  
R_R4         N00118 N00028  9.1k  
R_R5         0 N00118  2k  
R_R3         N00060 N00070  6.2k  
V_V2         N00028 0 18Vdc
V_V1         N00060 0 7.5Vdc
C_C1         0 N00102  4.7u  
